US08071592B2
(e) cis-4-{2-[(3RS,5SR)-3-(Aminomethyl)-5-(methyloxy)-1-piperidinyl]ethyl}-6-(methyloxy)pyrido[2,3-b]pyrazin-3(4H)-one
To 2-[((3RS,5SR)-5-(methyloxy) 1-{2-[6-(methyloxy)-3-oxopyrido[2,3-b]pyrazin-4(3H)-yl]ethyl}-3-piperidinyl)methyl]-1H-isoindole-1,3(2H)-dione (110 mg, 0.23 mmol) in EtOH (5 mL) was added anhydrous hydrazine (0.5 mL, 15.0 mmol). The reaction was warmed to 40° C. and allowed to stir under nitrogen for 24 h. The reaction was filtered through a pad of Celite® and the filtrate was partitioned between EtOAc (50 mL) and water (10 mL). The aqueous layer was further extracted with EtOAc (2×25 mL), and the combined organic layers were dried over Na2SO4. The solvents were removed to provide the desired compound (62 mg; 77%) as a tan solid which was used without further purification.

reactant | 2-[((3RS,5SR)-5-(methyloxy) 1-{2-[6-(methyloxy)-3-oxopyrido[2,3-b]pyrazin-4(3H)-yl]ethyl}-3-piperidinyl)methyl]-1H-isoindole-1,3(2H)-dione | 0.23 mmol, 110 mg | COC1CC(CN(C1)CCN1C2=C(N=CC1=O)C=CC(=N2)OC)CN2C(C1=CC=CC=C1C2=O)=O | C25H27N5O5
reactant | hydrazine | 15.0 mmol, 0.5 mL | NN | H4N2
solvent | EtOH | 5 mL | CCO | C2H6O
product | cis-4-{2-[(3RS,5SR)-3-(Aminomethyl)-5-(methyloxy)-1-piperidinyl]ethyl}-6-(methyloxy)pyrido[2,3-b]pyrazin-3(4H)-one | 62 mg, 77% | NC[C@@H]1CN(C[C@@H](C1)OC)CCN1C2=C(N=CC1=O)C=CC(=N2)OC | C17H25N5O3
